US07842685B2
2-Pyridylmagnesium chloride (3.92 mL, 2.84 mmol, solution in THF) was added to a solution of 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-N-methoxy-N-methylbenzo[d]thiazole-6-carboxamide (0.52 g, 1.29 mmol) in THF (2 mL) and the reaction mixture was stirred for 30 min. Satd. NH4Cl (aq) was added and the mixture was extracted with DCM three times. The combined extracts were dried (MgSO4) and concentrated under vacuum to give (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)benzo[d]thiazol-6-yl)(pyridine-2-yl)methanone as a yellow solid. MS (ESI) m/z: Calculated: 420.1; Observed: 421.0 (M++1).

reactant | 2-Pyridylmagnesium chloride | 2.84 mmol, 3.92 mL | N1=C(C=CC=C1)[Mg]Cl
reactant | 2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)-N-methoxy-N-methylbenzo[d]thiazole-6-carboxamide | 1.29 mmol, 0.52 g | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C(=O)N(C)OC)F | C20H19FN2O4S
reactant | NH4Cl | [NH4+].[Cl-]
solvent | THF | 2 mL | C1CCOC1 | C4H8O
product | (2-(4-(1,3-dioxan-2-yl)-2-fluorophenyl)benzo[d]thiazol-6-yl)(pyridine-2-yl)methanone | O1C(OCCC1)C1=CC(=C(C=C1)C=1SC2=C(N1)C=CC(=C2)C(=O)C2=NC=CC=C2)F | C23H17FN2O3S
